US09193687B2
To a stirred solution of 3-chloro-N-(3-nitrophenyl)propanamide (4.6 g, 20 mmol) in THF (50 mL) was added dropwise N,N-dimethyl amine (2M solution in THF) (1.8 g, 20 mL, 40 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight and then evaporated to dryness under reduced pressure. The residue was triturated with 5% NH3 (aqueous, 50 mL) and the solid product was collected by filtration, washed with water followed by hexane, and dried to give 3-(dimethylamino)-N-(3-nitrophenyl)propanamide, 4.1 g (87%), mp 80-81° C. 1H NMR (DMSO-d6) δ: 2.17 (6H, s, CH3), 2.47-2.50 (2H, t, J=6.4 Hz, CH), 2.56-2.59 (2H, t, J=6.8 Hz, CH), 7.57-7.62 (1H, t, J=8.2 Hz, Ar—H), 7.88-7.91 (2H, dd, J=8.1 and 2.2 Hz, Ar—H), 8.63-8.64 (1H, t, J=2.0 Hz, Ar—H), 10.49 (1H, brs, NH).

reactant | 3-chloro-N-(3-nitrophenyl)propanamide | 20 mmol, 4.6 g | ClCCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C9H9ClN2O3
reactant | N,N-dimethyl amine | 40 mmol, 2M, 20 mL, 1.8 g | CNC | C2H7N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(dimethylamino)-N-(3-nitrophenyl)propanamide | CN(CCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C | C11H15N3O3
